US06281219B1
α,α-Dimethyl-(3-trifluoromethylphenyl)acetic acid methyl ester (24.6 g, 0.1 mol), acetic acid (150 ml), water (75ml) and sulfuric acid (36 g, 0.36 mol) are combined. The reaction is refluxed for 3 hours and stirred at room temperature for 3 days. The reaction is concentrated to half its original volume and added to ethyl acetate and washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 16.6 g α,α-dimethyl-(3-trifluoromethylphenyl)acetic acid as a white solid. 1H NMR CDCl3 1.63 (6H,s) 7.45-7.65 (4H, m)

reactant | α,α-Dimethyl-(3-trifluoromethylphenyl)acetic acid methyl ester | 0.1 mol, 24.6 g | COC(C(C)(C)C1=CC(=CC=C1)C(F)(F)F)=O | C12H13F3O2
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.36 mol, 36 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 75ml | O | H2O
product | α,α-dimethyl-(3-trifluoromethylphenyl)acetic acid | 16.6 g | CC(C(=O)O)(C)C1=CC(=CC=C1)C(F)(F)F | C11H11F3O2
